US07635715B2
Step D: Preparation of Diethyl 2-(2-(3-chlorophenyl)-2-methylpropanoyl)malonate
Diethyl malonate (3.72 mL, 24.6 mmol) in ACN (50 mL) was cooled to 0° C. MgCl2 (2.34 g, 24.6 mmol) was added, followed by addition of TEA (7.18 mL, 51.7 mmol) slowly via syringe. The mixture was stirred at 0° C. for 15 minutes before being brought to room temperature and stirred for 2.5 hours. 2-(3-Chlorophenyl)-2-methylpropanoyl chloride (5.69 g, 24.6 mmol) was dissolved in ACN (20 mL) and added to the malonate solution. The reaction mixture was then stirred at 50° C. for 16 hours. The reaction mixture was cooled to room temperature, concentrated in vacuo, and partitioned between 1M HCl and EtOAc. The aqueous layer was separated and extracted with EtOAc (2×). The combined organic layers were dried (MgSO4) and concentrated in vacuo to give the desired compound as a brown oil (8.76 g). MS (m/e)=341.2 (M+H)+.

reactant | Diethyl malonate | 24.6 mmol, 3.72 mL | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | MgCl2 | 24.6 mmol, 2.34 g | [Mg+2].[Cl-].[Cl-]
reactant | 2-(3-Chlorophenyl)-2-methylpropanoyl chloride | 24.6 mmol, 5.69 g | ClC=1C=C(C=CC1)C(C(=O)Cl)(C)C | C10H10Cl2O
reactant | malonate | C(CC(=O)[O-])(=O)[O-]
solvent | ACN | 50 mL | C(C)#N | C2H3N
solvent | ACN | 20 mL | C(C)#N | C2H3N
product | Diethyl 2-(2-(3-chlorophenyl)-2-methylpropanoyl)malonate | 8.76 g | ClC=1C=C(C=CC1)C(C(=O)C(C(=O)OCC)C(=O)OCC)(C)C | C17H21ClO5
